US08957074B2
A sample of 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (50 mg, 0.102 mmol), methanesulfonyl chloride (12.3 mg, 0.107 mmol) and diisopropyl ethylamine (0.027 ml, 0.154 mmol) were combined into 1 ml DCM in a crew cap vial along with a stir bar and allowed to stir for 16 hr. The reaction was then taken up into EtOAc, and extracted with saturated Na2CO3 solution, then with brine and the organic layer dried over Na2SO4. The crude product was purified by normal phase chromatography (0-75% ethyl acetate in Heptane) which gave 7-cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-9-(methylsulfonyl)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (25 mg) in 44% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.66 (s, 2H), 8.47 (d, J=9.09 Hz, 2H), 8.07 (d, J=2.53 Hz, 1H), 7.46 (m, 1H), 6.40 (s, 1H), 4.73 (m, 1H), 4.42 (m, 1H), 4.31 (m, 1H), 4.20 (d, 1H), 3.64 (s, 2H), 3.09 (s, 6H), 3.00 (d, J=4.04 Hz, 1H), 2.90 (s, 3H), 2.49 (m, 2H), 2.00 (m, 4H), 1.66 (br. s., 4H). MS m/z 566.9 (M+H).

reactant | 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.102 mmol, 50 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
reactant | methanesulfonyl chloride | 0.107 mmol, 12.3 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropyl ethylamine | 0.154 mmol, 0.027 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-9-(methylsulfonyl)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 25 mg, 44% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1S(=O)(=O)C)C(=O)N(C)C | C27H34N8O4S
